US04518597
6-Acetoxy-8-chloro-4H-3,1-benzoxazin-2-one
A quantity of 14.5 gm (0.07 mol) of 6-acetoxy-4H-3,1-benzoxazin-2-one (prepared from 6-hydroxy-4H-3,1-benzoxazin-2-one and acetic anhydride; m.p. 173°-175° C.) is dissolved in 150 ml of glacial acetic acid, mixed with 10.8 gm (6.5 ml=0.08 mol) of sulfuryl chloride, and stirred for 36 hours at ambient temperature. After addition of 30 ml of ether, the mixture is cooled to 0° C., and the precipitate is subjected to suction filtration, washed with ether, and dried.

reactant | 6-acetoxy-4H-3,1-benzoxazin-2-one | 0.07 mol, 14.5 gm | C(C)(=O)OC=1C=CC2=C(COC(N2)=O)C1 | C10H9NO4
reactant | sulfuryl chloride | 0.08 mol, 6.5 ml, 10.8 gm | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ether | 30 ml | CCOCC | C4H10O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 6-Acetoxy-8-chloro-4H-3,1-benzoxazin-2-one | C(C)(=O)OC=1C=C(C2=C(COC(N2)=O)C1)Cl | C10H8ClNO4
